US05587504
Synthesis of 4,4-dimethyl-2-(4'-chloromethylbiphenyl-2-yl)oxazoline
1.0 g (3.55 mmol) of 4,4-dimethyl-2-(4'-hydroxymethylbiphenyl-2-yl)oxazoline was dissolved in methylene chloride (15 ml). Under cooling with ice, 0.51 g (4.29 mmol) of thionyl chloride was dropwise added thereto, followed by stirring for one hour. The reaction liquid was poured into an aqueous solution of sodium hydrogencarbonate, followed by the extraction with methylene chloride. After washing with water and drying, vacuum concentration was conducted. 1.05 g of the title compound was obtained as a crystal (yield 99%).

reactant | 4,4-dimethyl-2-(4'-hydroxymethylbiphenyl-2-yl)oxazoline | 3.55 mmol, 1.0 g | CC1(N=C(OC1)C1=C(C=CC=C1)C1=CC=C(C=C1)CO)C | C18H19NO2
reactant | thionyl chloride | 4.29 mmol, 0.51 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 4,4-dimethyl-2-(4'-chloromethylbiphenyl-2-yl)oxazoline | 1.05 g | CC1(N=C(OC1)C1=C(C=CC=C1)C1=CC=C(C=C1)CCl)C | C18H18ClNO
